US05886191
A mixture of 4-bromophenol (40 mmol), benzylbromide (40 mmol) and Na2CO3 in DMF (200 mL) was stirred at room temperature for 24 hours and was then poured into water. A solid was collected and was further recrystallized from hexane to give 4-benzyloxybenzene bromide in almost quantitative yield. A solution of the bromide in THF (100 mL) was treated with BuLi (44 mmol) at -78° C. over 30 minutes and then with a solution of ZnI2 (40 mmol) in THF(40 mL) over 20 minutes. After the resulting mixture was warmed to room temperature over an hour, it was cooled to -78° C. and a solution of copper (I) cyanide (40 mmol) and lithium chloride (80 mmol) in THF (50 mL) was slowly added. The resulting mixture was warmed and stirred at -20° C. for 20 minutes, cooled to -78° C., and to it was added ethyl 2-(bromomethyl)acrylate (40 mmol). The resulting mixture was stirred at -78° C. for 2 hours and was then warmed to room temperature overnight. Ether and aqueous saturated ammonium chloride were added and filtered. The filtrate was washed with water and brine, and dried over MgSO4. Concentration gave a residue, which was purified by column chromatography with gradient solvent system (CH2Cl2 -EtOAc) to give the title compound (3.6 g, 30.4%): 1H NMR (CDCl3) δ 7.44-7.26 (m, 5H),7.12 (d, J=8.4 Hz, 2H), 6.91 (d, J=8.4 Hz, 2H), 6.20 (s, 1H), 5.92 (s, 1H), 5.07 (s, 2H), 4.18 (q, J=7.4 Hz, 2H), 3.57 (s, 2H), 1.27 (t, J=7.4 Hz, 3H); MS: 314 (M+NH4)+.

reactant | 4-bromophenol | 40 mmol | BrC1=CC=C(C=C1)O | C6H5BrO
reactant | benzylbromide | 40 mmol | C(C1=CC=CC=C1)Br | C7H7Br
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
reactant | water | O | H2O
solvent | DMF | 200 mL | CN(C)C=O | C3H7NO
product | 4-benzyloxybenzene bromide | quantitative yield | [Br-].C(C1=CC=CC=C1)OC1=CC=CC=C1 | InChI=1S/C13H12O.BrH/c1-3-7-12(8-4-1)11-14-13-9-5-2-6-10-13;/h1-10H,11H2;1H/p-1
